US06143757
Cis-2-benzyl-5-cyclohexyl-5,6,11,11a-tetrahydro-1H-imidazo[1',5':1,6]pyrido[3,4-b]indole-1,3(2H)-dione
The same method as employed in the preparation of Example 1 but starting from cis methyl 1,2,3,4-tetrahydro-1-cyclohexyl-9H-pyrido[3,4-b]indole-3-carboxylate (see J. Cook et al., Heterocycles, 4(7), 1249-1255 (1976)) and benzyl isocyanate gave after recrystallization from methanol, the title compound as white crystals m.p.: 170-173° C.

reactant | cis methyl 1,2,3,4-tetrahydro-1-cyclohexyl-9H-pyrido[3,4-b]indole-3-carboxylate | C1(CCCCC1)[C@@H]1N[C@@H](CC2=C1NC1=CC=CC=C21)C(=O)OC | C19H24N2O2
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | Cis-2-benzyl-5-cyclohexyl-5,6,11,11a-tetrahydro-1H-imidazo[1',5':1,6]pyrido[3,4-b]indole-1,3(2H)-dione | C(C1=CC=CC=C1)N1C(N2[C@H](C=3NC=4C=CC=CC4C3C[C@@H]2C1=O)C1CCCCC1)=O | C26H27N3O2
